US04727192
Preparation of 1-(2-methylamino-3,5-dinitrophenyl)-2-propanol
0.056 Mole (12.5 g) of 2,3-dihydro-5,7-dinitro-2-methyl-benzofuran is suspended in 100 ml of a 33% strength solution of methylamine in ethanol. After 10 hours' stirring at room temperature in a sealed Erlenmeyer, the reaction mixture is brought for 30 minutes to the refluxing temperature of the alcohol. After the mixture is cooled, the expected product precipitates. It is drained, washed with alcohol and then recrystallized from 50 ml of 96° strength ethanol. After being dried, 0.047 mole (12 g) is obtained of a product which melts at 132° C.

reactant | 2,3-dihydro-5,7-dinitro-2-methyl-benzofuran | 0.056 Mole, 12.5 g | [N+](=O)([O-])C=1C=C(C2=C(CC(O2)C)C1)[N+](=O)[O-] | C9H8N2O5
reactant | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-methylamino-3,5-dinitrophenyl)-2-propanol | CNC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])CC(C)O | C10H13N3O5
